US04284634
A solution of dimethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (3.60 g) in methanol (72 ml) was cooled at 0° C., and sodium borohydride (0.2271 g) was added bit by bit thereto under cooling with stirring. The mixture was stirred at the same temperature for 15 minutes. The reaction mixture was adjusted to about pH 6 with 50% acetic acid and the methanol was distilled off under reduced pressure below 30° C. The residual solution was diluted with water (100 ml) and extracted with ethyl acetate. The extract was washed with water, an aqueous sodium bicarbonate solution and water in turn, dried over magnesium sulfate and then evaporated to dryness. The residual oil (3.70 g) was crystallized by triturating with diisopropyl ether to give crude crystals (2.74 g), which were recrystallized in first from methanol (8 ml) and then from ethyl acetate (10 ml) to give pure crystals of dimethyl 2-methyl-4-(2-nitrophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (770 mg), mp 164.5 to 165° C. The whole mother liquor of above recrystallizations were combined together and concentrated. The crystalline residue was collected by filtration and washed with methanol (5 ml) to give additional crystals (1.72 g), which were recrystallized from ethyl acetate to give additional pure specimen of the same product obtained above, (840 mg) m.p. 164.5° to 165° C. Total yield, 1.61 g.

reactant | dimethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 3.60 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C=O | C17H16N2O7
reactant | sodium borohydride | 0.2271 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 72 ml | CO | CH4O
product | dimethyl 2-methyl-4-(2-nitrophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 770 mg | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)CO | C17H18N2O7
